US07595397B2
(4-Bromo-phenyl)-(3-phenyl-piperidin-1-yl)-methanone
The above compound could be made in the following manner, analogous to Example 60. 1 eq. of p-Bromobenzoic acid could be combined with 1 eq. 3-Phenylpiperidine HCl, 1.1 equivalents EDC, 1.1 equivalents HOBt and 2.2 equivalents Hunig's Base in DMF (concentration of 1 mL of DMF/mmol acid) would be stirred at room temperature overnight. The solution would then be diluted with water and extracted with ethyl acetate. The organic layers would then be combined and washed with water, aqueous saturated sodium bicarbonate solution, 1N HCl and brine. The organic layers would be dried with sodium sulfate, filtered and concentrated. Purification would be done with flash chromatography to afford product.

reactant | p-Bromobenzoic acid | 1 eq. | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | 3-Phenylpiperidine HCl | Cl.C1(=CC=CC=C1)C1CNCCC1
reactant | EDC | 1.1 equivalents
reactant | HOBt | 1.1 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's Base | 2.2 equivalents | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-Bromo-phenyl)-(3-phenyl-piperidin-1-yl)-methanone | BrC1=CC=C(C=C1)C(=O)N1CC(CCC1)C1=CC=CC=C1 | C18H18BrNO
